US03981886
2-Amino-5,6-dimethoxy-1,3-bis[(2-chloro-3-iodophenoxy)methyl]-1H-benzimidazol-3-ium chloride
Following the procedure of Example 2 and replacing 2-aminobenzimidazole with 2-amino-5,6-dimethoxybenzimidazole and replacing 2-bromo-4-chlorophenyl chloromethyl ether with 2-chloro-3-iodophenyl chloromethyl ether, the title compound is obtained.

reactant | 2-amino-5,6-dimethoxybenzimidazole | NC=1NC2=C(N1)C=C(C(=C2)OC)OC | C9H11N3O2
reactant | 2-chloro-3-iodophenyl chloromethyl ether | ClCOC1=C(C(=CC=C1)I)Cl | C7H5Cl2IO
product | 2-Amino-5,6-dimethoxy-1,3-bis[(2-chloro-3-iodophenoxy)methyl]-1H-benzimidazol-3-ium chloride | [Cl-].NC1=[N+](C2=C(N1COC1=C(C(=CC=C1)I)Cl)C=C(C(=C2)OC)OC)COC2=C(C(=CC=C2)I)Cl | InChI=1S/C23H19Cl2I2N3O4.ClH/c1-31-19-9-15-16(10-20(19)32-2)30(12-34-18-8-4-6-14(27)22(18)25)23(28)29(15)11-33-17-7-3-5-13(26)21(17)24;/h3-10,28H,11-12H2,1-2H3;1H
